US05011932
Preparation of cyclohexanecarboxylic acid [1-(4-pyridinyl)ethylidene]hydrazide, Compound 159
A solution of 4.26 gm (0.03 mole) of cyclohexanecarboxylic acid hydrazide, 3.63 gm (0.03 mole) of 4-acetylpyridine and 100 ml of ethanol is refluxed 7 hr. The solvent is evaporated in vacuo to give a white solid. The product is crystallized from ethyl acetate to yield 5.38 gm (73%) of the title compound having a melting point of 195.3° C.

reactant | cyclohexanecarboxylic acid hydrazide | 0.03 mole, 4.26 gm | C1(CCCCC1)C(=O)NN | C7H14N2O
reactant | 4-acetylpyridine | 0.03 mole, 3.63 gm | C(C)(=O)C1=CC=NC=C1 | C7H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | cyclohexanecarboxylic acid [1-(4-pyridinyl)ethylidene]hydrazide | 5.38 gm, 73% | N1=CC=C(C=C1)C(C)=NNC(=O)C1CCCCC1 | C14H19N3O
